US04282242
Ethyl 5-benzoylpyrrole-3-carboxylate (0.973 g., 4 mmoles) was dissolved in 40 ml. of dry tetrahydrofuran. To the stirred solution, under nitrogen, there was added sodium hydride dispersion in oil (57%, 0.173 g., 4 mmoles), and the mixture was stirred for 0.5 hour. Ethyl iodide (1.25 g., 8 mmoles) was added and stirring continued for 6 hours. Additional sodium hydride (0.17 g.) and ethyl iodide (1.25 g.) was added and reflux continued for an additional 104 hours. Like quantities of sodium hydride and ethyl iodide were added after 16 hours reflux and a like quantity of ethyl iodide after 24 hours reflux. The reaction was cooled and excess sodium hydride decomposed by cautious addition of 40 ml. of water. The product was extracted into 40 ml. of ether, the ether back-washed with 10 ml. of water, and evaporated to dryness to yield ethyl 1-ethyl-5-benzoylpyrrole-3-carboxylate (1 g.), used directly in the next step.

reactant | Ethyl 5-benzoylpyrrole-3-carboxylate | 4 mmoles, 0.973 g | C(C1=CC=CC=C1)(=O)C1=CC(=CN1)C(=O)OCC | C14H13NO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | Ethyl iodide | 8 mmoles, 1.25 g | C(C)I | C2H5I
reactant | sodium hydride | 0.17 g | [H-].[Na+]
reactant | ethyl iodide | 1.25 g | C(C)I | C2H5I
solvent | water | O | H2O
product | ethyl 1-ethyl-5-benzoylpyrrole-3-carboxylate | 1 g | C(C)N1C=C(C=C1C(C1=CC=CC=C1)=O)C(=O)OCC | C16H17NO3
